US06548529B1
A mixture of 2-bromoaniline (2.18 g, 12.7 mmol) and 2,3-diphenylmaleic anhydride (3.17 g, (12.7 mmol) were stirred and heated under argon to 200° C. for 6 h. The mixture was cooled to room temperature, dissolved in CH2Cl2 (50 mL), dried (MgSO4) and evaporated. Purification of the crude product by flash chromatography on silica gel (5×25 cm column, 2 L of 3:7 hexanes/CH2Cl2, then CH2Cl2) gave first 4-(2-bromoanilino)-2,3-diphenyl-4-hydroxybutyrolactone (2.16 g, 40% yield) as a yellow solid, mp 162-164° C. and then the title compound as a bright yellow solid, mp 178-180° C., 2.00 g, 39% yield.

reactant | 2-bromoaniline | 12.7 mmol, 2.18 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | 2,3-diphenylmaleic anhydride | C1(=CC=CC=C1)/C=1/C(=O)OC(\C1\C1=CC=CC=C1)=O | C16H10O3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-bromoanilino)-2,3-diphenyl-4-hydroxybutyrolactone | 2.16 g, 40% yield | BrC1=C(NC2(C(C(C(=O)O2)C2=CC=CC=C2)C2=CC=CC=C2)O)C=CC=C1 | C22H18BrNO3
